US04119668
Condensation of 1-pentene oxide and 1,12-dodecanediamine affords N,N'-(1,12-dodecylene)-bis[2-hydroxypentylamine] (I: R = CH3 (CH2)2, R' = H, X = (CH2)12, Z = H).

reactant | 1-pentene oxide | C1C(CCC)O1 | C5H10O
reactant | 1,12-dodecanediamine | C(CCCCCCCCCCCN)N | C12H28N2
product | N,N'-(1,12-dodecylene)-bis[2-hydroxypentylamine] | C(CCCCCCCCCCCNCC(CCC)O)NCC(CCC)O | C22H48N2O2
